US08431575B2
To a stirred solution of (±)-cis-3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (50.0 mmol, 11.6 g) in anhydrous DCM (500 mL) at room temperature was added triethylamine (100 mmol, 14.0 mL). The reaction mixture was cooled to 0° C. using an ice bath. To this was added acetic anhydride (50.0 mmol, 4.72 mL) dropwise over 10 minutes. After completion of addition, the reaction was stirred for 12 hours while slowly coming to room temperature. All volatiles were removed under reduced pressure. The residue was dissolved in ethyl acetate (250 mL) and washed with saturated NaHCO3 (2×50 mL), water (50 mL) and brine (50 mL). The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on a 110 g SiO2 cartridge using ethyl acetate/hexanes gradient to provide (±)-cis-4-acetoxymethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (12.3 g).

reactant | (±)-cis-3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 50.0 mmol, 11.6 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CO)O | C11H21NO4
reactant | triethylamine | 100 mmol, 14.0 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 50.0 mmol, 4.72 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-4-acetoxymethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 12.3 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC(C)=O)O | C13H23NO5
